US09278910B2
Prepared from INT-85: To a stirring solution of 1-(4′-methyl-[1,1′-biphenyl]-4-yl)-1H-pyrazole (309 mg, 1.319 mmol) INT-85 in DCM (4 mL) was added NBS (258 mg, 1.45 mmol). After stirring at room temperature for 1 h additional THF (4 mL) was added and stirring continued. After 18 h the reaction mixture was concentrated in vacuo and slurried in MeCN (4 mL). The solid was collected by filtration and washed with MeCN (2×2 mL) to provide 360 mg (87%) of 4-bromo-1-(4′-methyl-[1,1′-biphenyl]-4-yl)-1H-pyrazole INT-86. LCMS-ESI (m/z) calculated for C16H13BrN2: 312; found 313 [M+H]+, tR=3.07 min (Method 5).

reactant | 1-(4′-methyl-[1,1′-biphenyl]-4-yl)-1H-pyrazole | 1.319 mmol, 309 mg | CC1=CC=C(C=C1)C1=CC=C(C=C1)N1N=CC=C1 | C16H14N2
reactant | NBS | 1.45 mmol, 258 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | THF | 4 mL | C1CCOC1 | C4H8O
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | 4-bromo-1-(4′-methyl-[1,1′-biphenyl]-4-yl)-1H-pyrazole | 360 mg, 87% | BrC=1C=NN(C1)C1=CC=C(C=C1)C1=CC=C(C=C1)C | C16H13BrN2
